US09303035B2
Step 3: 10-(5-Chlorofuran-2-yl)-8-(hydroxymethyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione
A mixture of 6-(2,3-dihydroxypropyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (450 mg, 1.284 mmol), 5-chlorofuran-2-carbaldehyde (184 mg, 1.413 mmol) and bismuth triflate (169 mg, 0.257 mmol) in ethanol (9.584 ml) was stirred at room temperature for 2.5 hours. TFA (310 μl) was added and the mixture heated under microwave radiation at 80° C. for 20 mins, then further heated under microwave radiation at 80° C. for 10 hours. The reaction was then concentrated to half-volume under vacuum, a further portion of bismuth triflate (169 mg, 0.257 mmol) and powdered molecular sieves (200 mg) were added and the mixture heated under microwave radiation at 80° C. for 10 hours. The mixture was evaporated under vacuum and the residue partitioned between EtOAc (100 ml) and saturated K2CO3(aq) (100 ml) The phases were separated and the aqueous phase was extracted with EtOAc (3×100 ml). The combined organic extracts were dried over sodium sulfate and evaporated under vacuum. Purification by chromatography on silica, eluting with 40-50% EtOAc/hexane afforded the title compound as a mixture of diastereomers.

reactant | 6-(2,3-dihydroxypropyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 1.284 mmol, 450 mg | OC(CN1C=C2N(C(N(C(C2=C1C=1SC=C(N1)C)=O)C)=O)C)CO | C15H18N4O4S
reactant | 5-chlorofuran-2-carbaldehyde | 1.413 mmol, 184 mg | ClC1=CC=C(O1)C=O | C5H3ClO2
reactant | bismuth triflate | 0.257 mmol, 169 mg | [O-]S(=O)(=O)C(F)(F)F.[Bi+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
reactant | TFA | 310 μl | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | bismuth triflate | 0.257 mmol, 169 mg | [O-]S(=O)(=O)C(F)(F)F.[Bi+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
solvent | ethanol | 9.584 ml | C(C)O | C2H6O
product | 10-(5-Chlorofuran-2-yl)-8-(hydroxymethyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]oxazine-2,4(3H,10H)-dione | ClC1=CC=C(O1)C1OC(CN2C1=C1C(=C2C=2SC=C(N2)C)C(N(C(N1C)=O)C)=O)CO | C20H19ClN4O5S
